US07365066B2
4-[2-(6-Ethoxy-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinoline
Add sodium hydride (25.5 mg, 0.64 mmol) to a solution of 4-[2-(6-chloro-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinoline (50 mg, 0.14 mmol) in ethanol (2.5 mL) at 0° C. Stir the reaction mixture at 0° C. for 10 minutes, room temperature for 10 minutes more, and reflux overnight. Cool the reaction mixture to room temperature, quench with saturated aqueous ammonium chloride (3 mL). Add water (20 mL) and extract the aqueous solution with methylene chloride (3×20 mL). Dry the combined organic layers with sodium sulfate and purify by flash column chromatography (SiO2, 50% ethyl acetate/hexanes) to give the title compound 48 mg (94%) as an off-white solid.

reactant | sodium hydride | 0.64 mmol, 25.5 mg | [H-].[Na+]
reactant | 4-[2-(6-chloro-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinoline | 0.14 mmol, 50 mg | ClC1=CC=CC(=N1)C1=NN2C(C=CC=C2)=C1C1=CC=NC2=CC=CC=C12 | C21H13ClN4
reactant | ethanol | 2.5 mL | C(C)O | C2H6O
product | 4-[2-(6-Ethoxy-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinoline | 48 mg, 94% | C(C)OC1=CC=CC(=N1)C1=NN2C(C=CC=C2)=C1C1=CC=NC2=CC=CC=C12 | C23H18N4O
